US08030500B2
4-Chloro-2-fluoro-6-(3-methoxybenzoyl)benzonitrile
2-Bromo-4-chloro-6-fluorobenzonitrile (6.95 g, 29.64 mmol) was dissolved in THF (15 mL) and added to a bottle of Rieke® Zinc in THF (50 mg/mL, 50.0 mL, 38.24 mmol) at 0° C. under an argon atmosphere. The resulting mixture was stirred at rt for 6 h and then stored in a refrigerator for 60 h allowing the excess of zinc to settle. The solution was carefully decanted off and cooled to −78° C. under an argon atmosphere. A solution of lithium bromide (5.15 g, 59.28 mmol) and copper(I) cyanide (2.65 g, 29.64 mmol) in THF (30 mL) was added and the resulting mixture was stirred at rt for 30 min. The mixture was cooled to −78° C. and then 3-methoxybenzoyl chloride (4.17 mL, 29.64 mmol) was added dropwise. The cooling bath was removed and the resulting mixture was stirred at rt for 1.5 h. Saturated aqueous NH4Cl (12 mL) was added to the mixture, the THF was removed in vacuo and the residue was diluted with water (50 mL) and DCM (50 mL). The mixture was poured into a phase separator, the organic phase was collected, concentrated and purified on a silica gel column (0-30% EtOAc in heptane) to give 4.7 g (55%) of the title compound.

reactant | 2-Bromo-4-chloro-6-fluorobenzonitrile | 29.64 mmol, 6.95 g | BrC1=C(C#N)C(=CC(=C1)Cl)F | C7H2BrClFN
reactant | lithium bromide | 59.28 mmol, 5.15 g | [Br-].[Li+]
reactant | copper(I) cyanide | 29.64 mmol, 2.65 g | [Cu]C#N
reactant | 3-methoxybenzoyl chloride | 29.64 mmol, 4.17 mL | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Zinc | [Zn] | Zn
solvent | THF | 38.24 mmol, 50.0 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-fluoro-6-(3-methoxybenzoyl)benzonitrile | 4.7 g, 55% | ClC1=CC(=C(C#N)C(=C1)C(C1=CC(=CC=C1)OC)=O)F | C15H9ClFNO2
